US07605176B2
VIII.1.b: 6-nitro-2-(pyrrolidin-1-ylmethyl)benzoxazole
A reaction mixture of 3.00 g (14.1 mmol) of 2-chloromethyl-6-nitrobenzoxazole (VIII.1.a), 1.50 mL (18.0 mmol) of pyrrolidine, and 3.90 g (28.2 mmol) of potassium carbonate in 30 mL of DMF is stirred for 12 hours at 50° C. After this time, the mixture is diluted with water and covered with diethyl ether. The precipitate formed is filtered off and dried at 80° C. Yield: 1.80 g (52% of theory); C12H13N3O3; EII mass spectrum: m/z=248 [M+H]+.

reactant | 2-chloromethyl-6-nitrobenzoxazole | 14.1 mmol, 3.00 g | ClCC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H5ClN2O3
reactant | pyrrolidine | 18.0 mmol, 1.50 mL | N1CCCC1 | C4H9N
reactant | potassium carbonate | 28.2 mmol, 3.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-nitro-2-(pyrrolidin-1-ylmethyl)benzoxazole | [N+](=O)([O-])C1=CC2=C(N=C(O2)CN2CCCC2)C=C1 | C12H13N3O3
